US05811439
Sodium hydride (95%; 383 mg) was suspended in 10 ml of dimethylformamide under an argon gas atmosphere. To the suspension, there was dropwise added a solution of 2.00 g of indole-4-carbaldehyde in 10 ml of dimethylformamide with ice-cooling and stirring. After stirring the reaction mixture at room temperature for 25 minutes, it was again ice-cooled followed by dropwise addition of a solution of 1.33 g of methyl acrylate in 10 ml of dimethylformamide and stirring at room temperature for 19 hours. The reaction system was poured into 400 ml of a 10% ammonium chloride solution, followed by addition of a 2% HCl aqueous solution till the system became acidic and extraction with ethyl acetate (200 ml×2). After drying the extract over anhydrous magnesium sulfate, the solvent was removed by distillation under reduced pressure and the resulting crude product was purified by silica gel column chromatography (hexane:ethyl acetate=2:1) to thus give 3.68 g of a pale yellow oily substance. This was dissolved in 40 ml of dimethylformamide, followed by addition of 2.70 g of methyl iodide and 2. 58 g of potassium carbonate and stirring the mixture at room temperature for 1.5 hour. The mixture was poured into 400 ml of a 10% ammonium chloride aqueous solution and extracted with ethyl acetate (200 ml×2). After drying the resulting extract over anhydrous sodium sulfate, the solvent was removed by distillation under reduced pressure and the resulting crude product was purified by silica gel column chromatography to give 848 mg of 1-(2-methoxycarbonylethyl)indole-4-carbaldehyde as a yellow oily substance. The yield thereof was found to be 27%.

reactant | Sodium hydride | 383 mg | [H-].[Na+]
reactant | indole-4-carbaldehyde | 2.00 g | N1C=CC=2C(=CC=CC12)C=O | C9H7NO
reactant | methyl acrylate | 1.33 g | C(C=C)(=O)OC | C4H6O2
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | HCl | Cl | ClH
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | 1-(2-methoxycarbonylethyl)indole-4-carbaldehyde | 848 mg | COC(=O)CCN1C=CC=2C(=CC=CC12)C=O | C13H13NO3
